US07723529B2
Step 2: synthesis of 1-[(2S)-3-[(3-(nitrooxy)propyl) carbonylthio]-2-methyl-1-oxopropyl]-L-proline
Using the same procedure described in Example 1 but starting from 1-[(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline (Captopril)(0.41 g, 1.9 mmol), 4-(nitrooxy)butanoic acid pentafluorophenyl ester (0.60 g, 1.9 mmol) TEA (0.26 ml, 1.9 mmol) and DMAP (0.23 g, 1.9 mmol) after purification with Flash chromatography of the residue (CH2Cl2/Acetone 80:20) the title compound (0.140 g, 20%) was obtained as a white foam.

reactant | 1-[(2S)-3-mercapto-2-methyl-1-oxopropyl]-L-proline | 1.9 mmol, 0.41 g | SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
reactant | 4-(nitrooxy)butanoic acid pentafluorophenyl ester | 1.9 mmol, 0.26 ml, 0.60 g | FC1=C(C(=C(C(=C1OC(CCCO[N+](=O)[O-])=O)F)F)F)F | C10H6F5NO5
catalyst | DMAP | 1.9 mmol, 0.23 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 1-[(2S)-3-[(3-(nitrooxy)propyl) carbonylthio]-2-methyl-1-oxopropyl]-L-proline | [N+](=O)([O-])OCCCC(=O)SC[C@H](C(=O)N1[C@H](C(=O)O)CCC1)C | C13H20N2O7S
